US06211234B1
A solution of ethyl 4-(2,4-dibenzyloxyphenyl)-2,4-dioxobutanoate (2 g) in methanol (100 mL) is treated with 10% aqueous potassium hydroxide (10 mL) and the mixture stirred at room temperature for 18 hours. The reaction mixture is evaporated to low bulk and the residue partitioned between ethyl acetate (100 mL) and 1 N hydrochloric acid (50 mL). The organic phase is washed with water, dried over magnesium sulphate and evaporated in vacuo. The residue iscrystallised from a mixture of ethyl acetate and cyclohexane to give 4-(2,4-dibenzyloxyphenyl)-2,4-dioxobutanoic acid (0.6 g), in the form of a white solid, m.p. 160-164° C. [Elemental analysis:- C,71.3; H,4.93%. Calculated:- C,71.3; H,4.99%].

reactant | ethyl 4-(2,4-dibenzyloxyphenyl)-2,4-dioxobutanoate | 2 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(CC(C(=O)OCC)=O)=O | C26H24O6
reactant | potassium hydroxide | 10 mL | [OH-].[K+]
solvent | methanol | 100 mL | CO | CH4O
product | 4-(2,4-dibenzyloxyphenyl)-2,4-dioxobutanoic acid | 0.6 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)OCC1=CC=CC=C1)C(CC(C(=O)O)=O)=O | C24H20O6
